US09085586B2
A solution of ethyl 2-[3-chloro-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(13),2(7),3,5,9,11-hexaen-12-yl]acetate (500 mg, 1.63 mmol, 1.00 equiv) in MeCN (100 mL) was added potassium carbonate (2.2 g, 15.92 mmol, 10.00 equiv), TEA (495 mg, 4.89 mmol, 3.00 equiv) and trans-4-(morpholin-4-yl)cyclohexan-1-amine (1.5 g, 8.14 mmol, 5.00 equiv) subsequently at room temperature under nitrogen. The resulting solution was stirred overnight at 80° C. and cooled down to r.t. The reaction was quenched with water, extracted with 3×100 mL of ethyl acetate. The organic layers were combined, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified by silica gel column chromatography with dichloromethane/methanol (20/1) to give 300 mg (40%) of the corresponding ethyl 2-(4-(((trans)-4-morpholinocyclohexyl)amino)benzo[4,5]thieno[2,3-d]pyrimidin-6-yl)acetate as an off-white solid. LCMS: (ES, m/z) 455 (M+H+). 1H-NMR (300 MHz, CDCl3) δ 8.57 (s, 1H), 7.88-7.85 (d, 1H), 7.71 (s, 1H), 7.42-7.40 (d, 1H), 5.33-5.31 (d, 1H), 4.30-4.21 (m, 1H), 4.19-4.09 (q, 2H), 3.81 (s, 2H), 3.75 (s, 4H), 2.61 (s, 4H), 2.38 (s, 3H), 2.05 (s, 2H), 1.55-1.52 (d, 2H), 1.45-1.41 (m, 2H), 1.31-1.27 (t, 3H).

reactant | ethyl 2-[3-chloro-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(13),2(7),3,5,9,11-hexaen-12-yl]acetate | 1.63 mmol, 500 mg, 1.00 equiv | ClC=1C=2C3=CC(=CC=C3SC2N=CN1)CC(=O)OCC | C14H11ClN2O2S
reactant | potassium carbonate | 15.92 mmol, 2.2 g, 10.00 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | trans-4-(morpholin-4-yl)cyclohexan-1-amine | 8.14 mmol, 1.5 g, 5.00 equiv | N1(CCOCC1)[C@@H]1CC[C@H](CC1)N | C10H20N2O
solvent | MeCN | 100 mL | CC#N | C2H3N
product | ethyl 2-(4-(((trans)-4-morpholinocyclohexyl)amino)benzo[4,5]thieno[2,3-d]pyrimidin-6-yl)acetate | 300 mg, 40% | O1CCN(CC1)[C@@H]1CC[C@H](CC1)NC=1C2=C(N=CN1)SC1=C2C=C(C=C1)CC(=O)OCC | C24H30N4O3S
